Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
penicillin G
 
Attending: ___.
 
Chief Complaint:
___ after fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female who presents to ___ 
___ on ___ with a mild TBI. Per report - she sustained an
unwitnessed fall in her bathroom while at her ___ 
nursing
home. She was helped into a chair, and was at her neurologic
baseline per report. She states that she does not remember
falling or hitting her head. She was noted to have a hematoma 
and
ecchymosis to the top of her head, so she was sent to an OSH. At
the OSH a head CT showed a small mid falx subdural hematoma. She
was transferred to ___ for further management. 
 
Past Medical History:
PMHx: 
Alzheimer's Dementia   
Diabetes NIDDM
Hematochezia
Myocardial infarction 
Kidney Disease 
Hypertension 
Atrial fibrillation                                           
L knee replacement 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, AxOx3
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Wounds: c/d/i
Ext: No edema, warm well-perfused

 
Brief Hospital Course:
___ w/hx dementia unwitnessed fall at nursing facility 
w/subdural hematoma. Per report - she sustained an unwitnessed 
fall in her bathroom while at her ___ nursing home. She 
was helped into a chair, and was at her neurologic baseline per 
report. She states that she does not remember falling or hitting 
her head. She was noted to have a hematoma and ecchymosis to the 
top of her head, so she was sent to an OSH. At the OSH a head CT 
showed a small mid falx subdural hematoma. She was transferred 
to ___ for further management. Neurosurgery was consulted and 
they recommended stopping asa for 3 days, stopping sqh for 1 day 
and putting on keppra for 7 days. They said no surgical 
intervention and no need for specific follow up with them. On 
___, UA negative for infection. She had some difficulty 
swallowing bedside, so speech and swallow was consulted and they 
recommended ground solids/ nectar thick liquids, meds crushed or 
cut in half in puree and aspiration precautions. She has been 
tolerating this diet. After 24 hours, ___ was restarted. ___ 
worked with the patient and they recommended discharge to memory 
facility with some supervision while walking. Case management 
was involved and facilitated this. She was discharged to memory 
facility. 
 
Medications on Admission:
1.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
PLEASE ONLY TAKE UNTIL ___ 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H  
3.  Aspirin 81 mg PO DAILY 
DO NOT START ASPIRIN UNTIL ___ PER NEUROSURGERY.   
4.  Benzonatate 100 mg PO TID  
5.  Donepezil 10 mg PO QHS  
6.  GlipiZIDE 10 mg PO BID  
7.  Losartan Potassium 50 mg PO BID  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Metoprolol Succinate XL 100 mg PO BID  
10.  Oxybutynin 2.5 mg PO BID  
 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
PLEASE ONLY TAKE UNTIL ___ 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0  for total ___.  Acetaminophen 650 mg PO Q6H  
3.  Aspirin 81 mg PO DAILY 
DO NOT START ASPIRIN UNTIL ___ PER NEUROSURGERY.   
4.  Benzonatate 100 mg PO TID  
5.  Donepezil 10 mg PO QHS  
6.  GlipiZIDE 10 mg PO BID  
7.  Losartan Potassium 50 mg PO BID  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Metoprolol Succinate XL 100 mg PO BID  
10.  Oxybutynin 2.5 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
subdural hematoma 

 
Discharge Condition:
Has dementia 

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___